US05114936
In 140 ml anhydrous THF was dissolved 4.20 g 5-(3-chloropropyl)-6,7-dihydro-3-(4-fluorophenyl)-1,2-benzisoxazol-4(5H)-one under nitrogen atmosphere with stirring. The solution was cooled to -78° C. and 14.0 ml lithium diisopropylamide (1.5 molar in cyclohexane) was added dropwise. The resulting solution was stirred for 10 minutes at -78° C. and 1.30 ml iodomethane was added. Upon warming to room temperature, the reaction mixture was poured into water and ether. The layers were separated and the aqueous phase was extracted two times with dichloromethane and once with ether. The combined organic layers were washed with brine and dried (MgSO4). Filtration and concentration gave the crude product as an oil. Column chromatography on silica gel (start eluting with 10% dichloromethane in hexane and gradually increase polarity to 100% dichloromethane) afforded 4.00 g of 5-(3-chloropropyl)-6,7-dihydro-3-(4-fluorophenyl)-7-methyl-1,2-benzisoxazol-4(5H)-one as an oil.

reactant | 5-(3-chloropropyl)-6,7-dihydro-3-(4-fluorophenyl)-1,2-benzisoxazol-4(5H)-one | 4.20 g | ClCCCC1CCC2=C(C(=NO2)C2=CC=C(C=C2)F)C1=O | C16H15ClFNO2
reactant | lithium diisopropylamide | 1.5 molar, 14.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodomethane | 1.30 ml | IC | CH3I
reactant | water | O | H2O
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-(3-chloropropyl)-6,7-dihydro-3-(4-fluorophenyl)-7-methyl-1,2-benzisoxazol-4(5H)-one | 4.00 g | ClCCCC1CC(C2=C(C(=NO2)C2=CC=C(C=C2)F)C1=O)C | C17H17ClFNO2
